US05021436
A solution of 2-mercaptomethyl-3-carboethoxy-5-cyano-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine (3 g), 2-chloroacetonitrile (1 g) and 1,4-diazabicyclo-2,2,2-octa ne (0.8 g) in EtOH (30 ml) is heated at reflux temperature for six hours. Then the reaction is cooled to room temperature and after usual work-up and purification by columnchromatography (SiO2 90 g; eluent Et2O/AcOEt 90/10) gives 1.8 g of 2-(cyanomethylthio)methyl-3-carboethoxy-5-cyano-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine.

reactant | 2-mercaptomethyl-3-carboethoxy-5-cyano-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine | 3 g | SCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C#N)C | C17H17N3O4S
reactant | 2-chloroacetonitrile | 1 g | ClCC#N | C2H2ClN
solvent | EtOH | 30 ml | CCO | C2H6O
product | 2-(cyanomethylthio)methyl-3-carboethoxy-5-cyano-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine | 1.8 g | C(#N)CSCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C#N)C | C19H18N4O4S
